US07041687B2
3-iodo-1-(2-methoxyethoxymethyl)-5-nitro-1-H-indazole:
To a solution of 3-iodo-5-nitro-1H-indazole (10.0 g, 34.6 mmol) in THF (50 ml) was added sodium bis(trimethylsilyl)amide (1M in THF, 48.4 mmol, 48.4 ml) and the solution stirred at room temperature for 20 minutes. 2-methoxyethoxymethyl chloride (4.9 g, 39.1 mmol, 4.5 ml) was added and the solution stirred at room temperature for 15 hours. The reaction was quenched with ammonium chloride (30 ml, saturated aqueous) and extracted into ethyl acetate (3×50 ml). The combined organic extracts were dried (Na2SO4) and concentrated in vacuo. The resulting residue was purified by flash column chromatography on silica gel (1:1 EtOAc:hexanes) to give the title compound as an orange solid (6.0 g). 1H NMR (400 MHz, CDCl3) δ 3.35 (3H, s), 3.50–3.52 (2H, m), 3.68–3.70 (2H, m), 5.86 (1H, s), 7.69 (1H, d), 8.38 (1H, d), 8.53 (1H, s). MS (ES+) m/e=378.

reactant | 3-iodo-5-nitro-1H-indazole | 34.6 mmol, 10.0 g | IC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C7H4IN3O2
reactant | sodium bis(trimethylsilyl)amide | 48.4 mmol, 1M, 48.4 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-methoxyethoxymethyl chloride | 39.1 mmol, 4.5 ml, 4.9 g | COCCOCCl | C4H9ClO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-iodo-1-(2-methoxyethoxymethyl)-5-nitro-1-H-indazole | 6.0 g | IC1=NN(C2=CC=C(C=C12)[N+](=O)[O-])COCCOC | C11H12IN3O4
